US05599814
a. 3,5-Dichloro-4-methoxyaniline
A stirred mixture of 2,6-dichloro-4-nitroanisole (4.6 g, 21 mM) and tin(II) dichloride dihydrate (23.4 g, 104 mM) in ethanol (72 mL) was refluxed for 3 hr. After cooling to room temperature, the reaction mixture was poured into ice water which was then treated with 2N sodium hydroxide until the solution became basic. The resulting mixture was filtered through diatomaceous earth and the liltrate was extracted with ethyl acetate. The combined ethyl acetate extracts were dried (MgSO4), filtered and concentrated to obtain (3.33 g, 83.7%) the title compound as a yellow-brown solid, mp 80°-81° C.; MS(CI): 192 (M+H).

reactant | 2,6-dichloro-4-nitroanisole | 21 mM, 4.6 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)OC | C7H5Cl2NO3
reactant | tin(II) dichloride dihydrate | 104 mM, 23.4 g | O.O.[Sn](Cl)Cl
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | ethanol | 72 mL | C(C)O | C2H6O
product | 3,5-Dichloro-4-methoxyaniline | 3.33 g, 83.7% | ClC=1C=C(N)C=C(C1OC)Cl | C7H7Cl2NO
